US04022784
2.0 g of 1-methyl-5-isopropylaminoacetyl-8-methoxycarbostyril (IIb) hydrochloride prepared as described in Example 3 was dissolved in 30 ml of a 47% aqueous solution of hydrobromic acid, and the solution was heated in an oil bath at a temperature of 120° to 130° C. for 8 hours under refluxing. 10 ml of water was then added to the reaction mixture followed by concentration by distillation. 10 ml of water was again added to the mixture followed by concentration. After allowing the mixture to cool, the precipitate formed was filtered and dissolved in 60 ml of water by heating. The resulting solution was adjusted to a pH of 6.5-7.5 with sodium bicarbonate and the precipitate formed was filtered. Recrystallization of the precipitate from ethanol yielded 0.45 g of white amorphous 1-methyl-5-isopropylaminoacetyl-8-hydroxycarbostyril (IIa) having a melting point of 136° to 138° C (with decomposition). The product thus obtained was confirmed by elemental analysis and IR and NMR spectral analyses.

reactant | 1-methyl-5-isopropylaminoacetyl-8-methoxycarbostyril | 2.0 g | CN1C(=O)C=CC2=C(C=CC(=C12)OC)C(CNC(C)C)=O | C16H20N2O3
reactant | water | 10 ml | O | H2O
solvent | hydrobromic acid | Br | BrH
product | 1-methyl-5-isopropylaminoacetyl-8-hydroxycarbostyril | 0.45 g | CN1C(=O)C=CC2=C(C=CC(=C12)O)C(CNC(C)C)=O | C15H18N2O3
